.title KiCad schematic
.include "D:/Spice_general/KiCad-1000/HB/amp2n2222/2N2222A.txt"
.param freq=1.5Meg
.csparam freq={freq}
R4 Net-_Q1-B_ 0 2.2k
C1 in Net-_Q1-B_ 10u
R3 Net-_R1-Pad1_ Net-_Q1-B_ 10k
V2 in 0 DC 0 SIN( 0 50m {freq} 0 0 0 ) AC 1  
R1 Net-_R1-Pad1_ out1 560
V1 Net-_R1-Pad1_ 0 DC 12 
R5 out2 0 3.3k
C2 out1 out2 10u
R2 Net-_Q1-E_ 0 180
Q1 out1 Net-_Q1-B_ Net-_Q1-E_ Q2n2222a

.control
*tran 1n 10u
*pyplot in out2
*ac dec 10 1 100Meg
*pyplot db(out2)
*destroy all
*set hb_verbose
hb $&freq 8
display
set xbrushwidth=3
plot db(out2) arrowplot ylimit -200 0
*pyplot db(out1) db(out2) combplot
gnuplot gout db(out2) arrowplot ylimit -250 0
set gnuplot_terminal=png
gnuplot gout db(out2) arrowplot ylimit -250 0
print hbfrequency db(out1) db(out2)
*quit
.endc

.end
